US08623862B2
Step 1: Benzyl 1,4,6,7-tetrahydro-5H-imidazo[4,5-c]pyridine-5-carboxylate.
A mixture of 2.0 g of 4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine dihydrochloride, 2.36 g of NaHCO3 and 2.45 g of N-(benzyloxycarbonyloxy)succinimide in 80 ml of dioxane/water mixture (50/50; v/v) is stirred for 16 hours at RT. The reaction mixture is extracted with EtOAc, the organic phase is washed with a saturated solution of NaHCO3, with 0.1M HCl solution, with saturated NaCl solution, it is dried and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, eluting with DCM/MeOH mixture. 1.9 g of the expected compound is obtained.

reactant | 4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine dihydrochloride | 2.0 g | Cl.Cl.N1C=NC=2CNCCC21
reactant | NaHCO3 | 2.36 g | C(=O)(O)[O-].[Na+]
reactant | N-(benzyloxycarbonyloxy)succinimide | 2.45 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | EtOAc MeOH | 80 ml | CCOC(=O)C.CO
product | Benzyl 1,4,6,7-tetrahydro-5H-imidazo[4,5-c]pyridine-5-carboxylate | 1.9 g | N1C=NC=2CN(CCC21)C(=O)OCC2=CC=CC=C2 | C14H15N3O2
